Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right chest/flank pain, right elbow pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ s/p mechanical fall today while mowing the lawn, stepped 
back and fell down ___ stairs onto hard surface, denies 
preceding symptoms, + headstrike no LOC, landed on R elbow, and 
R chest, remembers the details of the event. Initially presented 
to ___ and underwent pan scan which revealed no traumatic 
head
injuries, negative C spine and CT torso showed R ___ anterior 
and ___ posterior rib fractures. Transferred to ___ ED. 
Here in ED he continues to be HDS, still complains of R sided 
chest pain and inability to take deep breaths or cough. He also 
complains of R elbow pain but able to move and denies sensory
issues. 
 
Past Medical History:
Past Medical History: HTN, high cholesterol, cataracts 

Past Surgical History: inguinal hernia s/p repair, cataract 
surgery, L total knee replacement
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:
Vitals:  T 97.8, HR 67, BP 122/75, RR 20, sats 100%/RA
GEN: A&Ox3, no apparent distress but hard to take deep breaths 
or
cough due to pain
HEENT: midline half cm forehead skin abrasion, 2-3 cm posterior
scalp abrasion, no active bleeding or hematoma, otherwise head 
is
atraumatic, trachea is midline, no signs of penetration injury 
to
the neck or hematoma 
CV: Regular 
PULM: Clear to auscultation b/l, symmetric chest excursion, no
labored breathing, TTP on R lateral chest, no apparent signs of
traumatic injury.
ABD: Soft, nondistended, nontender, no rebound or guarding, no
sings of traumatic injury
Ext: No ___ edema, ___ warm and well perfused, there is 1 cm
ecchymosis on R elbow, otherwise no traumatic injury

Discharge Physical Exam:
VS: 99.2, 75, 116/63, 18, 99 RA
Gen: Alert, sitting up in chair.
HEENT: No deformity. PERRL, EOMI. Neck supple, trachea midline.
CV: RRR
Pulm: Clear to auscultation bilaterally. symmetric.
Abd: Soft, non-tender, non-distended. active bowel sounds x 4 
quadrants.
Ext: warm and dry. 2+ ___ pulses.
Neuro: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
Right elbow ___: No evidence of fracture within the right 
forearm or right elbow.

Laboratory:

     12.8
6.5 >-----<167
     38.9

144 104 26 
-----------<103
3.6 28 1.23 

Imaging:
CT Cspine at ___: No cervical spine fracture or acute
malalignment. Multilevel degenerative changes with osteophytosis
and minimal retrolisthesis C4 on C5 (602b:31)

CT of head at ___: no intracranial injuries

CT abd/chest: Multiple R sided rib fractures ___ anterior
___ posterior , tiny pleural effusion, no pneumothorax or
other acute findings, incidental renal cyst and small renal
stones. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old M who was admitted to the Acute 
Care Trauma Service on ___ after a fall. He reports head 
strike but denies loss of consciousness. Imaging revealed  right 
___ anterior and ___ posterior rib fractures. He was 
admitted to the floor for pain control and hemodynamic 
monitoring. 

He remained hemodynamically stable and pain was well controlled 
with tylenol and tramdol. He was tolerating a regular diet and 
voiding adequate urine. His blood counts remained stable. He was 
seen and evaluated by physical therapy who recommended discharge 
to home with outpatient physical therapy. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
diltiazem 180mg/24 ER dialy, HCTZ 12.5 mg daily, lisinopril 20 
mg daily, metoprolol succinate ER 50 mg tab ER 24 hr, , 
pravastatin 80 mg  daily, ASA 81mg daily
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
Do not exceed 4 grams per 24 hours 
2. Aspirin 81 mg PO DAILY 
3. Diltiazem Extended-Release 180 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
hold for diarrhea 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Ibuprofen 400 mg PO Q8H Pain 
7. Lisinopril 20 mg PO DAILY 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Pain 
take lowest effective dose.  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
10. Pravastatin 80 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right anterior rib fractures ___
Right posterior rib fractures ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ and admitted to the Acute 
Care Trauma Surgery Service on ___own 
stairs. You had imaging that revealed right rib fractures 
(anterior ___, posterior ___. You were admitted to ensure 
adequate pain control and oxygenation. You have a hematoma 
(bruise) on the back of your head but no intracranial bleeding. 
You were seen and evaluated by physical therapy and you were 
cleared to be discharged to home.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___